US05583092
(R/S)-1-Thiophen-2-yl-ethylamine (19.05 g, 0.150 mol) is added to a stirred solution of ethyl 3-isopropyl-[1,2,4]thiadiazole-5-carboxylate (25.0 g, 0.125 mol) in toluene (50 ml) and the mixture is heated to 80° C. for 2 hours. A further portion of (R/S)-1-[(2-thienyl)ethyl]amine (10.0 g, 0.08 mol) is added to the mixture, which is heated at 80° C. for a further 2 hours. Then a further portion of (R/S)-1-[(2-thienyl)ethyl]amine (10.0 g, 0.08 mol) is added to the mixture, and stirring is continued for a further 3 hours at 80° C. The solvent is evaporated in vacuo, and the residue is dissolved in methyl tert-butyl ether. The resulting solution is washed two times with 1N hydrochloric acid, dried with magnesium sulphate and the solvent is evaporated in vacuo. The oily residue is dissolved in petroleum ether (50 ml) and, upon agitation, the product crystallises out of the solution. The crystalline product is filtered off, washed with a small amount of petroleum ether and dried, to give (R/S)-3-isopropyl-[1,2,4]thiadiazole-5-carboxylic acid, [1-(2-thienyl)ethyl]amide (22.3 g, 63%) as beige crystals, m.p. 61°-63° C.

reactant | (R/S)-1-Thiophen-2-yl-ethylamine | 0.150 mol, 19.05 g | S1C(=CC=C1)C(C)N | C6H9NS
reactant | ethyl 3-isopropyl-[1,2,4]thiadiazole-5-carboxylate | 0.125 mol, 25.0 g | C(C)(C)C1=NSC(=N1)C(=O)OCC | C8H12N2O2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (R/S)-3-isopropyl-[1,2,4]thiadiazole-5-carboxylic acid, [1-(2-thienyl)ethyl]amide | 22.3 g, 63% | S1C(=CC=C1)C(C)NC(=O)C1=NC(=NS1)C(C)C | C12H15N3OS2
